Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH2:1].[Cl:2][c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[CH2:9][NH:10][CH2:11][c:12]1[n:13][n:14][c:15]([Br:16])[n:17]1-2>>[CH3:1][N:10]1[CH2:9][c:7]2[c:6]([cH:5][cH:4][c:3]([Cl:2])[cH:8]2)-[n:17]2[c:12]([n:13][n:14][c:15]2[Br:16])[CH2:11]1,[Cl:2][c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[CH2:9][NH:10][CH2:11][c:12]1[n:13][n:14][c:15]([Br:16])[n:17]1-2.[O:101]=[CH2:1].[H+:301].[BH3-:302]C#N.[Na+]>>[CH3:1][N:10]1[CH2:9][c:7]2[c:6]([cH:5][cH:4][c:3]([Cl:2])[cH:8]2)-[n:17]2[c:12]([n:13][n:14][c:15]2[Br:16])[CH2:11]1,reductive_amination,"[(10, 1), ([1, 101], 301), (101, 10.1), ([10.1, 10], 10), (10, [10, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 10], 10)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[O-:10])[cH:11][cH:12]1.[O:13]=[C:14]([O:15][C@@H:16]1[CH2:17][O:18][C@@H:19]2[C@H:20]([OH:21])[CH2:22][O:23][C@H:24]12)[N:25]1[CH2:26][CH2:27][CH:28]([O:29][N+:30](=[O:31])[O-:32])[CH2:33][CH2:34]1>>[C:1](=[O:2])([O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[O-:10])[cH:11][cH:12]1)[O:21][C@H:20]1[C@H:19]2[O:18][CH2:17][C@@H:16]([O:15][C:14](=[O:13])[N:25]3[CH2:26][CH2:27][CH:28]([O:29][N+:30](=[O:31])[O-:32])[CH2:33][CH2:34]3)[C@H:24]2[O:23][CH2:22]1,[O:13]=[C:14]([O:15][C@@H:16]1[CH2:17][O:18][C@@H:19]2[C@H:20]([OH:21])[CH2:22][O:23][C@H:24]12)[N:25]1[CH2:26][CH2:27][CH:28]([O:29][N+:30](=[O:31])[OH:32])[CH2:33][CH2:34]1.[Cl:101][C:1](=[O:2])[O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[OH:10])[cH:11][cH:12]1.[H-:301].[Na+]>>[C:1](=[O:2])([O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[OH:10])[cH:11][cH:12]1)[O:21][C@H:20]1[C@H:19]2[O:18][CH2:17][C@@H:16]([O:15][C:14](=[O:13])[N:25]3[CH2:26][CH2:27][CH:28]([O:29][N+:30](=[O:31])[OH:32])[CH2:33][CH2:34]3)[C@H:24]2[O:23][CH2:22]1,alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 21.1), ([21.1, 21], 21), (21, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=C(O[OH:1])c1cccc(Cl)c1.[CH3:2][O:3][c:4]1[cH:5][cH:6][c:7]2[n:8][c:9]([S:10][CH:11]3[CH2:12][CH2:13][CH2:14][c:15]4[cH:16][c:17]([CH3:18])[cH:19][n:20][c:21]43)[nH:22][c:23]2[cH:24]1>>[O:1]=[S:10]([c:9]1[n:8][c:7]2[cH:6][cH:5][c:4]([O:3][CH3:2])[cH:24][c:23]2[nH:22]1)[CH:11]1[CH2:12][CH2:13][CH2:14][c:15]2[cH:16][c:17]([CH3:18])[cH:19][n:20][c:21]21,[CH3:2][O:3][c:4]1[cH:5][cH:6][c:7]2[n:8][c:9]([S:10][CH:11]3[CH2:12][CH2:13][CH2:14][c:15]4[cH:16][c:17]([CH3:18])[cH:19][n:20][c:21]43)[nH:22][c:23]2[cH:24]1.[O:202]=[C:201]([O:101][OH:1])c1cccc(Cl)c1>>[O:1]=[S:10]([c:9]1[n:8][c:7]2[cH:6][cH:5][c:4]([O:3][CH3:2])[cH:24][c:23]2[nH:22]1)[CH:11]1[CH2:12][CH2:13][CH2:14][c:15]2[cH:16][c:17]([CH3:18])[cH:19][n:20][c:21]21,sulfide_oxidation,"[(10, 1), ([1, 101], [101, 201]), ([201, 202], 1.1), ([1.1, 1], 1), (1, [1, 10])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1)=[O:15].[NH2:16][CH:17]1[CH2:18][CH2:19]1>>[C:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1)(=[O:15])[NH:16][CH:17]1[CH2:18][CH2:19]1,[OH:101][C:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1)=[O:15].[NH2:16][CH:17]1[CH2:18][CH2:19]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1)(=[O:15])[NH:16][CH:17]1[CH2:18][CH2:19]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (16, 1), ([1, 15], 15), (303, 16.1), ([16.1, 16], 16), (15, [15, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][cH:7][c:8]([O:9][C:10]([F:11])([F:12])[F:13])[cH:14]1.[CH3:15][O:16][C:17](=[O:18])[c:19]1[cH:20][cH:21][c:22]([NH2:23])[cH:24][c:25]1[OH:26]>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][cH:7][c:8]([O:9][C:10]([F:11])([F:12])[F:13])[cH:14]1)[NH:23][c:22]1[cH:21][cH:20][c:19]([C:17]([O:16][CH3:15])=[O:18])[c:25]([OH:26])[cH:24]1,[Cl:101][S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][cH:7][c:8]([O:9][C:10]([F:11])([F:12])[F:13])[cH:14]1.[CH3:15][O:16][C:17](=[O:18])[c:19]1[cH:20][cH:21][c:22]([NH2:23])[cH:24][c:25]1[OH:26]>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][cH:7][c:8]([O:9][C:10]([F:11])([F:12])[F:13])[cH:14]1)[NH:23][c:22]1[cH:21][cH:20][c:19]([C:17]([O:16][CH3:15])=[O:18])[c:25]([OH:26])[cH:24]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(23, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
